US07468365B2
Synthesis of (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one
(S)-1-Amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one di-p-toluoyl-L-tartaric acid salt (11.83 g, 20.5 mmol) was dissolved in 45 mL of aqueous 1.0 N sodium hydroxide solution and extracted with methylene chloride (3×25 mL). The combined methylene chloride layers were washed with 35 mL aqueous 1.0 N sodium hydroxide solution, then brine solution, and dried over anhydrous MgSO4. Removal of solvent under vacuum gave the title compound (3.38 g) as a colorless oil (87% yield, 93.2% ee).

reactant | (S)-1-Amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one di-p-toluoyl-L-tartaric acid salt | 20.5 mmol, 11.83 g | C1(=CC=C(C=C1)C(=O)[C@]([C@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.N[C@@H]1C(N(CCC2=C1C=CC=C2)C)=O
solvent | sodium hydroxide | 1.0 N | [OH-].[Na+]
product | (S)-1-amino-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-2-one | 3.38 g, 87% yield | N[C@@H]1C(N(CCC2=C1C=CC=C2)C)=O | C11H14N2O
